US05296602
A mixture of 2-hydroxymethyl-1-nitro-3,4,5-trimethoxybenzene (200 mg, 0.82 mmol) and 10% palladium on carbon (100 mg) in ethanol (4 ml) was hydrogenated at 20 psi overnight. The mixture was filtered through a Celite pad and washed with ethanol. The combined filtrate and washings were evaporated in vacuo to dryness. The residue was chromatographed over a silica gel column (2×20 cm) using toluene/ethyl acetate (2:1, v/v) as the eluent to give 2-methyl-3,4,5-trimethoxyaniline as brown crystals (hexane), 130 mg (80%) with mp 49-51 ° C. 1H-NMR (CDCl3): δ2.01 (3H, s, Me), 3.49 (2H, b, exchangeable, NH2), 3.77, 3.78, and 3.82 (each 3H, s, 3×OMe), 6.07 (1H, s, H-6). Analyses: Calculated for C10H15NO3 : C, 60.90; H, 7.67; N, 7.10. Found: C, 61.05; H, 7.46; N, 7.00.

reactant | 2-hydroxymethyl-1-nitro-3,4,5-trimethoxybenzene | 0.82 mmol, 200 mg | OCC1=C(C=C(C(=C1OC)OC)OC)[N+](=O)[O-] | C10H13NO6
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-methyl-3,4,5-trimethoxyaniline | CC1=C(N)C=C(C(=C1OC)OC)OC | C10H15NO3
